US05434165
1-(2-Diisopropylaminoethyl)amino-4-nitronaphthalene
1-Chloro-4-nitronaphthalene and N, N-diisopropylethylenediamine were reacted in the same manner as in Example 1 to obtain the titled compound in a yield of 75.7%.

reactant | 1-Chloro-4-nitronaphthalene | ClC1=CC=C(C2=CC=CC=C12)[N+](=O)[O-] | C10H6ClNO2
reactant | N, N-diisopropylethylenediamine | C(C)(C)N(CCN)C(C)C | C8H20N2
product | 1-(2-Diisopropylaminoethyl)amino-4-nitronaphthalene | yield of 75.7% | C(C)(C)N(CCNC1=CC=C(C2=CC=CC=C12)[N+](=O)[O-])C(C)C | C18H25N3O2
